US07514470B2
C. 4-[(2-Cyanopropyl)(2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile
A mixture of 3-[[4-cyano-3-(trifluoromethyl)phenyl](2,2,2-trifluoroethyl)amino]-2-methylpropanamide (0.044 mg, 0.12 mmol), CCl4 (1.5 mL), DCE (1.5 mL) and polymer-supported triphenyl phosphine (3 mmol/g, 0.089 g, 0.27 mmol) was heated at 87° C. for 2 h. Upon cooling, the resin was filtered off, washed thoroughly with CHCl3 and the filtrate concentrated in vacuo. The residue was purified by silica gel chromatography (5-40% EtOAc-hexane gradient) and the product crystallized from CH2Cl2-hexanes to give the title compound as a white solid (0.021 g, 52% yield): 1H NMR (400 MHz, CDCl3) δ 7.72 (d, J=8.8 Hz, 1H), 7.03 (d, J=2.6 Hz, 1H), 6.94 (dd, J=8.8, 2.6 Hz, 1H), 4.31-4.10 (m, 2H), 3.79-3.68 (m, 2H), 3.10-3.01 (m, 1H), 1.41 (d, J=7.2 Hz, 3H); MS (ES) m/z 336 (M+1).

reactant | 3-[[4-cyano-3-(trifluoromethyl)phenyl](2,2,2-trifluoroethyl)amino]-2-methylpropanamide | 0.12 mmol, 0.044 mg | C(#N)C1=C(C=C(C=C1)N(CC(C(=O)N)C)CC(F)(F)F)C(F)(F)F | C14H13F6N3O
reactant | CCl4 | 1.5 mL | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | triphenyl phosphine | 0.27 mmol, 0.089 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | DCE | 1.5 mL | ClCCCl | C2H4Cl2
product | 4-[(2-Cyanopropyl)(2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile | 0.021 g, 52% yield | C(#N)C(CN(C1=CC(=C(C#N)C=C1)C(F)(F)F)CC(F)(F)F)C | C14H11F6N3
